**********************************
**********************************
**
** Littelfuse, LP
** SCR SPICE Models
** EC103xx-SxSx
**
** T. Chenoski
** Irving Technical Center
**
** A 06/13/08
**
**********************************
**********************************
.SUBCKT EC103D1    1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=6.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT EC103M1    1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=6.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT EC103D2    1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=2.20   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT EC103M2    1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=2.20   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT EC103D     1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=1.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT EC103M     1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=1.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT EC103D3    1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=0.95   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT EC103M3    1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=0.95   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S4S1       1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=6.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S6S1       1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=6.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S4S2       1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=2.20   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S6S2       1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=2.20   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S4S        1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=1.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S6S        1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=1.10   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S4S3       1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=400)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=0.95   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS

.SUBCKT S6S3       1  2             3
*       TERMINALS: A  G             K
Qpnp    6          4  1             Pfor      OFF
Qnpn    4          6  5             Nfor      OFF
Rfor    6          4  5G
Rrev    1          4  5G
Rshort  6          5  1MEG
Rlat    2          6  9.09
Ron     3          5  513.4m
Dfor    6          4  Zbrk
Drev    1          4  Zbrk
Dgate   6          5  Zgate
.MODEL  Zbrk       D  (IS=3.2E-16   IBV=100U  BV=600)
.MODEL  Zgate      D  (IS=1E-16     IBV=100U  BV=10      VJ=0.3)
.MODEL  Pfor       PNP(IS=5E-15     BF=0.95   CJE=5p     CJC=2p     TF=0.3U)
.MODEL  Nfor       NPN(IS=1E-12     ISE=1E-9  BF=10.0    RC=0.45    CJE=30p     CJC=2p      TF=0.3U)
.ENDS
